US06028195
1-{[5-(1-Hydroxy-1-methylethyl)-2-methoxy-6-methylpyridin-3-yl]aminocarbonyl}-4-(3,5-dimethoxyphenyl)piperazine
1-{(5-Acetyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine(214 mg, 0.50 mmol) was dissolved in tetrahydrofuran(10 ml) and CH3MgBr(0.50 ml, 1.50 mmol) was added slowly. The mixture solution was refluxed for 15 hrs and concentrated under the reduced pressure to remove the solvent and extracted with ethylacetate, dried and filtered. The resultant was purified by column chromatography(ethylacetate:hexane=1:2) to obtain the titled compound.

reactant | 1-{(5-Acetyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | 0.50 mmol, 214 mg | C(C)(=O)C=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC | C22H28N4O5
reactant | CH3MgBr | 1.50 mmol, 0.50 ml | C[Mg+].[Br-]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-{[5-(1-Hydroxy-1-methylethyl)-2-methoxy-6-methylpyridin-3-yl]aminocarbonyl}-4-(3,5-dimethoxyphenyl)piperazine | yield: 84% | OC(C)(C)C=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC | C23H32N4O5
